US07629340B2
2-(3-Bromo-phenyl)-N-cyclopropyl-acetamide
(3-Bromo-phenyl)-acetic acid (636.0 mg, 3.0 mmol) and DCC (608.2 mg, 2.9 mmol) were dissolved in dichloromethane (15 mL) and stirred at ambient temperature for 5 minutes. Then cyclopropylamine (204.5 μL, 3.0 mmol) was added, and the reaction was stirred at ambient temperature overnight. The reaction was filtered, and the solvent was removed. The resulting mixture was redissolved in DMF (10 mL) and purified by reverse phase HPLC to give the desired product.

reactant | (3-Bromo-phenyl)-acetic acid | 3.0 mmol, 636.0 mg | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | DCC | 2.9 mmol, 608.2 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | cyclopropylamine | 3.0 mmol, 204.5 μL | C1(CC1)N | C3H7N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(3-Bromo-phenyl)-N-cyclopropyl-acetamide | BrC=1C=C(C=CC1)CC(=O)NC1CC1 | C11H12BrNO
